US08222416B2
A solution of 2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol (90 mg, 0.266 mmol) in methanol (6 mL) was added a sodium metaperiodate (171 mg, 0.798 mmol) solution in water (3 mL). The resulting mixture was stirred for 12 h at room temperature, extracted with ethyl acetate (3×20 mL), dried over anhydrous sodium sulfate, concentrated in vacuo to afford 2-cyclobutyl-1-(4-methanesulfinyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol (94.2 mg, 100%) which was used in the next step without purification: LC/MS m/e calcd for C20H22N2O2S [M+H]+ 355.47, observed 355.4.

reactant | 2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol | 0.266 mmol, 90 mg | C1(CCC1)CC(O)(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)SC | C20H22N2OS
reactant | sodium metaperiodate | 0.798 mmol, 171 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 2-cyclobutyl-1-(4-methanesulfinyl-phenyl)-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)-ethanol | 94.2 mg, 100% | C1(CCC1)CC(O)(C1=CC=2C(=NC=CC2)N1)C1=CC=C(C=C1)S(=O)C | C20H22N2O2S
